US07750154B2
N-cyclopropyl-4-methyl-3-(6-morpholin-4-yl-4-oxoquinazoline-3(4H)-yl)benzamide (AZ12203363)
Triethylorthoformate (0.969 ml) was added to a stirred mixture of 2-amino-N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-5-morpholin-4-ylbenzamide (0.67 g) and glacial acetic acid (0.05 ml) in ethanol (5 ml). The mixture was heated to 80° C. and stirred for 16 hours. The reaction mixture was evaporated, dissolved in methylene chloride and washed with a saturated NaHCO3 solution. The organic phase was evaporated and the residue was purified by column chromatography on an ion exchange column (isolute SCX column from International Sorbent Technology Limited, Henoed, Mid-Glamorgan, UK) using initially methanol and then a 99:1 mixture of methanol and aqueous ammonia solution to give the title compound (0.172 g); NMR Spectrum: (DMSOd6) 0.53 (m, 2H), 0.66 (m, 2H), 2.11 (s, 3H), 2.83 (m, 1H), 3.22 (m, 4H), 3.75 (m, 4H), 7.48 (m, 2H), 7.64 (m, 2H), 7.80 (s, 1H), 7.87 (m, 1H), 8.09 (s, 1H), 8.43 (m, 1H); Mass Spectrum: M+H+ 405.

reactant | Triethylorthoformate | 0.969 ml | C(C)OC(OCC)OCC | C7H16O3
reactant | 2-amino-N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-5-morpholin-4-ylbenzamide | 0.67 g | NC1=C(C(=O)NC2=C(C=CC(=C2)C(=O)NC2CC2)C)C=C(C=C1)N1CCOCC1 | C22H26N4O3
reactant | acetic acid | 0.05 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | N-cyclopropyl-4-methyl-3-(6-morpholin-4-yl-4-oxoquinazoline-3(4H)-yl)benzamide | 0.172 g | C1(CC1)NC(C1=CC(=C(C=C1)C)N1C=NC2=CC=C(C=C2C1=O)N1CCOCC1)=O | C23H24N4O3
